*$
* ESD321
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: ESD321
* Date: 24JAN2022
* Model Type: TRANSIENT
* Simulator: PSPICE 
* Simulator Version: 17.4.0 (Nov. 2018)
* EVM Order Number: N/A
* EVM User's N/A
* Datasheet: SLVSEN8   
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*$
.SUBCKT ESD321 IO1 GND
Lpar1 IO1 IO1_L 0.443n
Rpar1 IO1_L IO1_R 0.061
Cpar1 IO1 IO1_R 0.0199p
DZ GND_INT IO1_R DbreakZ
Lpar_GND GND_INT GND_L 0.443n
Rpar_GND GND_L GND 0.061
Cpar_GND GND_INT GND 0.0199p
.MODEL DbreakZ D
+ IS = 0.1n
+ BV = 5
+ VJ = 0.8
+ RS = 0.13
+ IBV = 1m
+ CJO = 0.9p
+ TT = 10p
+ M = 0.4
.ENDS ESD321
*$
